US07192968B2
(±)-trans-N-[(5-Methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride
(±)-trans-N-tert-Butoxycarbonyl-1,2-cyclopentane-diamine (175 mg) was dissolved in N,N-dimethylformamide (3 ml), and to the solution lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (purity: 90%, 258 mg), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (252 mg) and 1-hydroxybenzo-triazole monohydrate (60 mg) were added. The mixture was stirred at room temperature for 2 days. The solvent was distilled off under reduced pressure using a pump, and dichloromethane and a saturated solution of sodium hydrogencarbonate were added to the residue to separate an organic layer. The resultant organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by medium-pressure flash column chromatography on silica gel (dichloromethane:methanol=47:3). The resultant pale yellow oil was dissolved in a saturated ethanol solution (5 ml) of hydrochloric acid, and the solution was stirred at room temperature for 1 hour. Ethyl acetate was then added, and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue to collect precipitate by filtration, thereby obtaining the title compound (120 mg) as a pale yellow solid.

reactant | (±)-trans-N-tert-Butoxycarbonyl-1,2-cyclopentane-diamine | 175 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCC1)N | C10H20N2O2
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 258 mg | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 252 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzo-triazole monohydrate | 60 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (±)-trans-N-[(5-Methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 120 mg | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@@H](CCC2)N | InChI=1S/C13H20N4OS.ClH/c1-17-6-5-10-11(7-17)19-13(16-10)12(18)15-9-4-2-3-8(9)14;/h8-9H,2-7,14H2,1H3,(H,15,18);1H/t8-,9-;/m1./s1
